US05166214
Preparation of N'-(2,4-difluorophenyl)-N-[5-(4,5-diphenyl-1H-imidazol-2-ylsulfinyl)pentyl]-N-heptylurea
To a solution of N'-(2,4-difluorophenyl)-N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptylurea (0.59 g, 0.001 mol) in methylene chloride (50 mL) cooled to -78° was added, dropwise, a solution of metachloroperbenzoic acid (0.286 g, 0.0017 mol) in methylene chloride (10 mL). The reaction mixture was stirred at -78° for 1 hour and then allowed to warm to ambient temperature. The reaction mixture was then cooled to 0° and then added, dropwise, was a solution of saturated sodium bisulfite. The layers were separated and the organic layer was washed with saturated sodium bisulfite. The layers were separated and the sodium chloride solution dried over magnesium sulfate and concentrated under vacuum. The residue (0.76 g) was chromatographed with 1:1 hexane-ethyl acetate to give the title compound (0.43 g, 0.00071 mol) as a yellow solid, mp 77°-79°. 1H NMR (CDCl3) δ8.1-7.9(m,1H), 7.6-7.2 (m,10H), 6.9-6.7(m,2H), 6.4(d,1H,J=3.3Hz), 3.4-3.1(m,6H), 2.0-1.1(m,18H), 0.9(t,3H,J=6.4Hz).

reactant | N'-(2,4-difluorophenyl)-N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptylurea | 0.001 mol, 0.59 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H40F2N4OS
reactant | metachloroperbenzoic acid | 0.0017 mol, 0.286 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N'-(2,4-difluorophenyl)-N-[5-(4,5-diphenyl-1H-imidazol-2-ylsulfinyl)pentyl]-N-heptylurea | 0.00071 mol, 0.43 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCCCCS(=O)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H40F2N4O2S
